US09260411B2
Methyl (2S)-2-[(tert-butoxycarbonyl)amino]-5-oxo-7-(trimethylsilyl)hept-6-ynoate
A 2-L, 3-neck jacketed round bottomed flask equipped with an overhead mechanical stirrer, N2-inlet and temperature probe was charged with octylmagnesium chloride (2.1 M, 248.3 g, 0.560 mol) and tetrahydrofuran (1 vol, 102 g) and the solution was chilled to 0° C. (internal temperature). Trimethylsilyl acetylene (57.5 g, 0.585 mol) was added subsurface by syringe over about 25 min (Tmax=13° C.). The solution was stirred at 0° C. for 1 hour and was then cooled to −10° C. (internal temperature). A solution of (S)-1-tert-butyl 2-methyl 5-oxopyrrolidine-1,2-dicarboxylate (125 g, 0.509 mmol) in tetrahydrofuran (250 g) was added subsurface by rotary pump over a 2-hour period. The flask and pump were rinsed with about 25 g of tetrahydrofuran, which was added to the reaction flask. The reaction was monitored by HPLC until completion. A 2-L flask was charged with water (870 g) and NH4Cl (174 g) and the contents were mixed until all of the solid dissolved. About ½ of the 20% NH4Cl solution (504 g) was removed Isopropyl acetate (380 g) was added to the flask and the mixture was cooled to <5° C. The reaction solution was added to the isopropyl acetate/NH4Cl solution over about 20 minutes (Tmax=5° C.). The bath was removed and the mixture was allowed to warm to above 10° C. The mixture was transferred to a separatory funnel and the layers were separated. The gray semi-solid that was present was kept with the organic layer. The aqueous layer was extracted with isopropyl acetate (328 g) and the organic layers were combined. The organic layer was washed with the remainder of the 20% NH4Cl solution and with 20% NaCl solution (435 mL). The organic layer was concentrated and diluted with isopropyl acetate a total of two times. The mixture was filtered to remove precipitated salts. The isopropyl acetate solution of the title compound was used directly in the next step.

reactant | octylmagnesium chloride | 0.560 mol, 2.1 M, 248.3 g | C(CCCCCCC)[Mg]Cl
reactant | Trimethylsilyl acetylene | 0.585 mol, 57.5 g | C[Si](C)(C)C#C | C5H10Si
reactant | (S)-1-tert-butyl 2-methyl 5-oxopyrrolidine-1,2-dicarboxylate | 0.509 mmol, 125 g | O=C1CC[C@H](N1C(=O)OC(C)(C)C)C(=O)OC | C11H17NO5
solvent | tetrahydrofuran | 250 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 102 g | O1CCCC1 | C4H8O
product | Methyl (2S)-2-[(tert-butoxycarbonyl)amino]-5-oxo-7-(trimethylsilyl)hept-6-ynoate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CCC(C#C[Si](C)(C)C)=O | C16H27NO5Si
